US05629430
Methyl 1-chloromethyl-5-hydroxy-3-(5-methoxy-1H-indol-2-ylcarbonyl)-7-trifluoromethyl-1,2,3,6-tetrahydropyrrolo[3,2-e]indole-8-carboxylate was prepared in the same manner as above by using 11.2 mg (25 μmol) of methyl 3-t-butoxycarbonyl-1-chloromethyl-5-hydroxy-7-trifluoromethyl-1,2,3,6-tetrahydropyrrolo[3,2-e]indole-8-carboxylate and 4.8 mg (25 μmol) of 5-methoxyindole-2-carboxylic acid in a yield of 7.2 mg (55%).

reactant | methyl 3-t-butoxycarbonyl-1-chloromethyl-5-hydroxy-7-trifluoromethyl-1,2,3,6-tetrahydropyrrolo[3,2-e]indole-8-carboxylate | 25 μmol, 11.2 mg | C(C)(C)(C)OC(=O)N1CC(C2=C3C(=C(NC3=C(C=C21)O)C(F)(F)F)C(=O)OC)CCl | C19H20ClF3N2O5
reactant | 5-methoxyindole-2-carboxylic acid | 25 μmol, 4.8 mg | COC=1C=C2C=C(NC2=CC1)C(=O)O | C10H9NO3
product | Methyl 1-chloromethyl-5-hydroxy-3-(5-methoxy-1H-indol-2-ylcarbonyl)-7-trifluoromethyl-1,2,3,6-tetrahydropyrrolo[3,2-e]indole-8-carboxylate | ClCC1CN(C=2C1=C1C(=C(NC1=C(C2)O)C(F)(F)F)C(=O)OC)C(=O)C=2NC1=CC=C(C=C1C2)OC | C24H19ClF3N3O5
